US07238716B2
A mixture of 4-chloromethyl-5-methyl-2-phenyloxazole (20.18 g), 4-benzyloxyphenol (17.70 g), anhydrous potassium carbonate (12.22 g) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 15 hrs. The reaction mixture was poured into water, and the precipitated solid was collected by filtration, and dried with air to give crystals (29.03 g, 88%) of 4-[(4-benzyloxyphenoxy)methyl]-5-methyl-2-phenyloxazole. Recrystallization from ethyl acetate-hexane gave colorless leaflet crystals. melting point: 126-127° C. A mixture of the obtained 4-[(4-benzyloxyphenoxy)methyl]-5-methyl-2-phenyloxazole (22.6 g), 5% palladium carbon (10.0 g) and tetrahydrofuran (300 mL) was subjected to catalytic hydrogenation at room temperature and 1 atm. After filtering off the catalyst, the solvent was evaporated under reduced pressure to give crystals (16.3 g, 95%) of 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenol. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 168-169° C.

reactant | 4-[(4-benzyloxyphenoxy)methyl]-5-methyl-2-phenyloxazole | 22.6 g | C(C1=CC=CC=C1)OC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C24H21NO3
catalyst | palladium carbon | 10.0 g | [C].[Pd]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenol | 16.3 g, 95% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)O | C17H15NO3
